US08420655B2
To a mixture of crude 4-methoxy-phthalic acid 2-methyl ester (850 mg) in CH2Cl2 (25 mL) is added oxalyl chloride (3.0 mL) and DMF (1 drop). The reaction mixture is stirred at room temperature for 1 hour, and is concentrated under reduced pressure. To the freshly formed 5-chloro-2-chlorocarbonyl-benzoic acid methyl ester in pyridine (5.0 mL) is added N-hydroxy-acetamidine (350 mg, 4.72 mmol). The reaction mixture is heated at 100° C. for 16 hours. The reaction mixture is allowed to cool to room temperature, diluted with EtOAc (100 mL), and washed with H2O (75 mL×2). The organic layer is dried with Na2SO4 and is filtered. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 35% EtOAc in heptanes as the eluent to afford 5-methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester (600 mg, 60%).

reactant | 4-methoxy-phthalic acid 2-methyl ester | 850 mg | COC(C=1C(C(=O)O)=CC=C(C1)OC)=O | C10H10O5
reactant | oxalyl chloride | 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-chloro-2-chlorocarbonyl-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)Cl)C(=O)Cl)=O | C9H6Cl2O3
reactant | N-hydroxy-acetamidine | 4.72 mmol, 350 mg | ONC(C)=N | C2H6N2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester | 600 mg, 60% | COC(C1=C(C=CC(=C1)OC)C1=NC(=NO1)C)=O | C12H12N2O4
